US09145387B2
Step 1: N-(2-(2,5-dichloropyrimidin-4-ylamino)phenyl)acrylamide (Intermediate 1)
To a solution of N-(2-aminophenyl)acrylamide (TFA salt) (10 g, 38.6 mmol) in N-methyl pyrrolidinone (30 mL) was added DIPEA (12.6 g, 98.36 mmol), and 2,4,5-trichloropyrimidine (9.5 g, 49.18 mmol), and the mixture was stirred at rt for 16 h. TLC showed completion of starting material (TLC system: 50% ethyl acetate/hexane, (Rf): 0.5). The reaction mixture was diluted with ethyl acetate (100 mL) and washed with water (3×50 mL). The organic layer was separated, dried over sodium sulfate and concentrated to obtain the crude compound (11 g). MS m/z: 309.1 (ES+, M+1).

reactant | N-(2-aminophenyl)acrylamide | 38.6 mmol, 10 g | NC1=C(C=CC=C1)NC(C=C)=O | C9H10N2O
reactant | DIPEA | 98.36 mmol, 12.6 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,4,5-trichloropyrimidine | 49.18 mmol, 9.5 g | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | N-methyl pyrrolidinone | 30 mL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-(2-(2,5-dichloropyrimidin-4-ylamino)phenyl)acrylamide | 11 g | ClC1=NC=C(C(=N1)NC1=C(C=CC=C1)NC(C=C)=O)Cl | C13H10Cl2N4O
